US04012524
2-Cyclopentyl-2,6-dimethyl-7-chloroindan-1,5-diol is prepared following substantially the same procedure described in Example 4, Step E, using the following substances: 2-cyclopentyl-2,6-dimethyl-5-hydroxy-7-chloro-1-indanone (8.37 g., 0.03 mole); sodium bis-(2-methoxyethoxy)-aluminum hydride (70% in [10 ml.]); and tetrahydrofuran (100 ml.).

reactant | 2-cyclopentyl-2,6-dimethyl-5-hydroxy-7-chloro-1-indanone | 0.03 mole, 8.37 g | C1(CCCC1)C1(C(C2=C(C(=C(C=C2C1)O)C)Cl)=O)C | C16H19ClO2
reactant | sodium bis-(2-methoxyethoxy)-aluminum hydride | 10 ml | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-Cyclopentyl-2,6-dimethyl-7-chloroindan-1,5-diol | C1(CCCC1)C1(C(C2=C(C(=C(C=C2C1)O)C)Cl)O)C | C16H21ClO2
